US08008293B2
Synthesis of (1S,6R,9aR)-6-(3,4-difluorophenyl)-1-methyl tetrahydro-[1,4]oxazino[3,4-c][1,4]oxazine-3,4-dione
Under ice-cooling, oxalyl chloride (417 μL) was added dropwise into a dichloromethane (8 mL) solution of 1-[(3R,5R)-5-(3,4-difluorophenyl)morpholin-3-yl]ethanol (424 mg) and pyridine (2 mL). Stirring was continued for 30 minutes at the same temperature. Water was added to the reaction solution, and the organic layer was partitioned, and the resultant was dried with magnesium sulfate, and the solvent was removed under a vacuum. The residue was purified with silica gel column chromatography (heptane/ethyl acetate 9/1→1/4), and the title compound (353 mg) was obtained. The physical property values are as follows.

reactant | oxalyl chloride | 417 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 8 mL | ClCCl | CH2Cl2
reactant | 1-[(3R,5R)-5-(3,4-difluorophenyl)morpholin-3-yl]ethanol | 424 mg | FC=1C=C(C=CC1F)[C@@H]1COC[C@@H](N1)C(C)O | C12H15F2NO2
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | Water | O | H2O
product | (1S,6R,9aR)-6-(3,4-difluorophenyl)-1-methyl tetrahydro-[1,4]oxazino[3,4-c][1,4]oxazine-3,4-dione | 353 mg | FC=1C=C(C=CC1F)[C@H]1N2[C@H](COC1)[C@@H](OC(C2=O)=O)C | C14H13F2NO4
